* Z:\mnt\design.r\spice\examples\1028CS.asc
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 10K
R2 N001 0 10
V3 IN 0 ac 1
C1 N002 N001 .1µ
C2 OUT N002 .33µ
R3 N002 N001 787
C3 IN 0 100p
R4 IN 0 47K
XU1 IN N001 +V -V OUT LT1028
.ac oct 10 10 20K
* Phono Preamplifier
.lib LTC.lib
.backanno
.end
